US07691882B2
3-(3-(6-Benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a solution of 3-ethynyl-pyridin-2,6-diamine (230 mg, 1.73 mmol) described in Manufacturing Example 13-1-3 in anhydrous tetrahydrofuran (20 mL) was added (2-benzyloxy-pyridin-5-yl)-acetohydroximoyl chloride (1.00 g, 3.61 mmol) described in Manufacturing Example 12-1-5 under nitrogen atmosphere at room temperature. Triethylamine (965 μL, 6.92 mmol) was added dropwise to the mixture and stirred for 1.5 hours at room temperature. The reaction mixture was partitioned into water and ethyl acetate at room temperature. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1) to obtain the title compound (470 mg, 73%).

reactant | 3-ethynyl-pyridin-2,6-diamine | 1.73 mmol, 230 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | (2-benzyloxy-pyridin-5-yl)-acetohydroximoyl chloride | 3.61 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=NC=C(C=C1)CC(=NO)Cl | C14H13ClN2O2
reactant | Triethylamine | 6.92 mmol, 965 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(3-(6-Benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 470 mg, 73% | C(C1=CC=CC=C1)OC1=CC=C(C=N1)CC1=NOC(=C1)C=1C(=NC(=CC1)N)N | C21H19N5O2
